US04130561
4-(1-Adamantyloxy)-N-methyl-N-[3-(dimethylamino)propyl]aniline
To an ice:MeOH cooled solution of 2.0 g. (0.078 mole) of N-methyl-p-(1-adamantyloxy)aniline in 20 ml. THF was added 4.75 ml. of 1.64 N BuLi in pentane. A solution of a 1:1 mixture of toluene and 1-chloro-N,N-dimethyl propyl amine in 20 ml. THF was then added and the mixture stirred at room temperature for 1 hour and at reflux for 20 hours. The bulk of the solvent was removed in vacuum and the residue dissolved in H2O and Et2O. The organic layer was washed with H2O and brine and taken to dryness. The residue was dissolved in CH2Cl2, treated with an excess of HCl in Et2O and taken to dryness. The remaining solid was recrystallized from MeOH:CH3CN to give 1.72 g. (53%) of 4'-(1-adamantyloxy)-N-methyl-N-[3-dimethylamino)propyl]-aniline, m.p. 221°-223°.

reactant | N-methyl-p-(1-adamantyloxy)aniline | 0.078 mole | CNC1=CC=C(C=C1)OC12CC3CC(CC(C1)C3)C2 | C17H23NO
reactant | BuLi | 1.64 N | [Li]CCCC
reactant | 1-chloro-N,N-dimethyl propyl amine | ClC(CC)N(C)C | C5H12ClN
reactant | aniline | NC1=CC=CC=C1 | C6H7N
solvent | pentane | CCCCC | C5H12
solvent | THF | C1CCOC1 | C4H8O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | MeOH | CO | CH4O
product | 4-(1-Adamantyloxy)-N-methyl-N-[3-(dimethylamino)propyl]aniline | C12(CC3CC(CC(C1)C3)C2)OC2=CC=C(N(CCCN(C)C)C)C=C2 | C22H34N2O
